US06627764B1
Preparation of 4-(4′-tert-butylphenyl)indanone
14.0 g (84 mmol) of 4-chloroindanone, 32.9 g (185 mmol) of 4-tert-butylphenylboronic acid, 230 ml of ethylene glycol and 38 ml of water together with 19.6 g of sodium carbonate are placed in a reaction vessel and degassed three times. A solution of 94 mg (0.42 mmol) of Pd(OAc)2 and 2.1 ml (1.26 mmol) of TPPTS in 2 ml of water is subsequently added. The resulting reaction mixture is refluxed for 5 hours. After cooling, it is extracted three times with toluene and the combined organic phases are washed with saturated NaCl solution. After drying over magnesium sulfate, the solvent is removed in an oil pump vacuum. 21.3 g (96%) of the desired product are isolated.

reactant | 4-chloroindanone | 84 mmol, 14.0 g | ClC1=C2CCC(C2=CC=C1)=O | C9H7ClO
reactant | 4-tert-butylphenylboronic acid | 185 mmol, 32.9 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | ethylene glycol | 230 ml | C(CO)O | C2H6O2
reactant | sodium carbonate | 19.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 2 ml | O | H2O
catalyst | Pd(OAc)2 | 0.42 mmol, 94 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | TPPTS | 1.26 mmol, 2.1 ml | C1=CC(=CC(=C1)S(=O)(=O)[O-])P(C2=CC(=CC=C2)S(=O)(=O)[O-])C3=CC(=CC=C3)S(=O)(=O)[O-].[Na+].[Na+].[Na+]
solvent | water | 38 ml | O | H2O
product | 4-(4′-tert-butylphenyl)indanone | 21.3 g, 96% | C(C)(C)(C)C1=CC=C(C=C1)C1=C2CCC(C2=CC=C1)=O | C19H20O
